US07442839B2
ii) 5-{(1R)-2-[Benzyl(6-{4-[3-(cyclopentylsulfonyl)phenyl]butoxy}hexyl)amino]-1-hydroxyethyl}-2-(benzyloxy)phenylformamide
N-Benzyl-6-{4-[3-(cyclopentylsulfonyl)phenyl]butoxy}hexan-1-amine (40 mg) was dissolved in dry THF (0.25 ml) and {5-[(2R)-2-oxiranyl]-2-[(phenylmethyl)oxy]phenyl}formamide (23 mg) (Organic Process Research & Development 1998, 2, 96-99), added. The reaction mixture was heated in a microwave oven for 3 h at 150°. The solvent was removed and the residue purified on a silica SPE bond elut cartridge, eluting with EtOAc-cyclohexane mixtures to give the title compound, (17 mg) LCMS RT=3.1 min

reactant | N-Benzyl-6-{4-[3-(cyclopentylsulfonyl)phenyl]butoxy}hexan-1-amine | 40 mg | C(C1=CC=CC=C1)NCCCCCCOCCCCC1=CC(=CC=C1)S(=O)(=O)C1CCCC1 | C28H41NO3S
reactant | {5-[(2R)-2-oxiranyl]-2-[(phenylmethyl)oxy]phenyl}formamide | 23 mg | O1[C@@H](C1)C=1C=CC(=C(C1)NC=O)OCC1=CC=CC=C1 | C16H15NO3
solvent | THF | 0.25 ml | C1CCOC1 | C4H8O
product | 5-{(1R)-2-[Benzyl(6-{4-[3-(cyclopentylsulfonyl)phenyl]butoxy}hexyl)amino]-1-hydroxyethyl}-2-(benzyloxy)phenylformamide | 17 mg | C(C1=CC=CC=C1)N(C[C@H](O)C=1C=CC(=C(C1)NC=O)OCC1=CC=CC=C1)CCCCCCOCCCCC1=CC(=CC=C1)S(=O)(=O)C1CCCC1 | C44H56N2O6S
